* source SDROFFSET
R_R5         N25012 N26084  .984e6 TC=0,0 
R_R3         N42219 N43933  253k TC=0,0 
R_R2         0 N44707  1.95k TC=0,0 
C_C1         0 N25012  1.049u  TC=0,0 
R_R7         N24028 N26084  10000 TC=0,0 
X_U3         0 N24028 N26956 N26084 N43933 N25012 N25012 N26084 555C
R_R9         N26084 N44707  4.67k TC=0,0 
V_V1         N26084 0 9Vdc
R_R6         N26956 0  50 TC=0,0 
X_U4         N44707 N42219 N26084 0 N43933 uA741
V_V4         N46811 0 0
R_R11         N42219 N46811  252k TC=0,0 
V_V3         N24028 0  
+PULSE 0 5 0 1e-9 1e-9 .95 1
.PARAM  ts=0
